US05071999
e) Ethyl 2-benzyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate
42.8 g (0.25 mol) of ethyl N-allyl-N-(2-oxoethyl) -carbamate are heated under reflux overnight with 41.3 g (0.25 mol) of N-benzylglycine in 750 ml of toluene. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-allyl-N-(2-oxoethyl) -carbamate | 0.25 mol, 42.8 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | N-benzylglycine | 0.25 mol, 41.3 g | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-benzyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | C(C1=CC=CC=C1)N1C2CN(CC2CC1)C(=O)OCC | C16H22N2O2
